US03968135
The reaction of 0.25 moles azelaic acid with 0.55 moles ethylene oxide under pressure using methyl isobutyl ketone in the presence of the catalyst of Example II(0.15% by wt. of total system) at 153°C gave bis(2-hydroxy ethyl)azelate in quantitative crude yield. The material was isolated as a grey-white solid melting at 46°-47°C from a n-butyl chloride-acetone mixture in 88.5% yield.

reactant | azelaic acid | 0.25 moles | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | ethylene oxide | 0.55 moles | C1CO1 | C2H4O
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | bis(2-hydroxy ethyl)azelate | OCCOC(CCCCCCCC(=O)OCCO)=O | C13H24O6
